US03952067
Ethyl p-cyclohexylacetophenone (0.066 mole) is added to ice-cold concentrated sulfuric acid (18 ml) and stirred with cooling for 5 minutes. Concentrated nitric acid (Sp. G. 1.51) (2.5 ml) is added dropwise, maintaining the temperature between 30° and 40° by water cooling when necessary. After addition of the nitric acid is complete, the mixture is stirred for 1/2 hour, then poured into water. The mixture is made alkaline with sodium hydroxide, then extracted with ether. The ether extract is washed, dried over sodium sulfate, evaporated and the residue is fractionally distilled to obtain 3-nitro-4-cyclohexylacetophenone.

reactant | Ethyl p-cyclohexylacetophenone | 0.066 mole | C(C)CC(=O)C1=CC=C(C=C1)C1CCCCC1 | C16H22O
reactant | nitric acid | 2.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-nitro-4-cyclohexylacetophenone | [N+](=O)([O-])C1CCCCC1CC(=O)C1=CC=CC=C1 | C14H17NO3
